US08735384B2
To a slurry of NaH (60% in mineral oil) (0.122 mL, 2.81 mmol) in THF (5 ml) was added dropwise a solution of 2-bromo-3-methyl-N-neopentylbenzamide (400 mg, 1.407 mmol) in THF (1 ml) at RT. After 20 min, iodomethane (0.096 mL, 1.548 mmol) was added and the reaction was allowed to stir for 48 h. The reaction was quenched by the addition of water and EtOAc. The organic phase was separated and dried over MgSO4. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (6-48% EtOAc/hexanes). 2-Bromo-N,3-dimethyl-N-neopentylbenzamide was isolated as a clear colorless viscous oil.

reactant | NaH | 2.81 mmol, 0.122 mL | [H-].[Na+]
reactant | 2-bromo-3-methyl-N-neopentylbenzamide | 1.407 mmol, 400 mg | BrC1=C(C(=O)NCC(C)(C)C)C=CC=C1C | C13H18BrNO
reactant | iodomethane | 1.548 mmol, 0.096 mL | IC | CH3I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-Bromo-N,3-dimethyl-N-neopentylbenzamide | BrC1=C(C(=O)N(CC(C)(C)C)C)C=CC=C1C | C14H20BrNO
